US08404719B2
To 3-amino-4-fluorobenzoic acid (0.621 g, 4 mmol) and 1-hydroxybenzotriazole hydrate (0.613 g, 4 mmol) in dichloromethane/N,N-dimethylformamide (10:1, 60 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (EDC, 0.621 g, 4 mmol). After 5 minutes, (R)-octahydropyrrolo[1,2-α]pyrazine (0.505 g, 4 mmol) in dichloromethane (1 mL) was added. The mixture was stirred at room temperature overnight. Then the mixture was concentrated. The residue was purified by chromatography on silica gel (dichloromethane, then methanol/dichloromethane=1:10) to give (R)-(3-amino-4-fluorophenyl)(hexahydropyrrolo[1,2-α]pyrazin-2(1H)-yl)methanone: 1H NMR (500 MHz, DMSO-d6) δ ppm 1.25 (m, 1H), 1.60-2.10 (m, 6H), 2.70-3.10 (m, 4H), 3.55-3.70 (m, 1H), 4.40-4.60 (m, 1H), 5.30 (s, 2H), 6.50 (m, 1H), 6.77 (m, 1H), 7.00 (m, 1H); MS (ESI) m/z 264 (M+H)+.

reactant | 3-amino-4-fluorobenzoic acid | 4 mmol, 0.621 g | NC=1C=C(C(=O)O)C=CC1F | C7H6FNO2
reactant | 1-hydroxybenzotriazole hydrate | 4 mmol, 0.613 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 4 mmol, 0.621 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | (R)-octahydropyrrolo[1,2-α]pyrazine | 4 mmol, 0.505 g | C1[C@@H]2N(CCN1)CCC2 | C7H14N2
solvent | dichloromethane N,N-dimethylformamide | 60 mL | ClCCl.CN(C=O)C
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (R)-(3-amino-4-fluorophenyl)(hexahydropyrrolo[1,2-α]pyrazin-2(1H)-yl)methanone | NC=1C=C(C=CC1F)C(=O)N1C[C@@H]2N(CC1)CCC2 | C14H18FN3O
